Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Donnatal / nitroglycerin
 
Attending: ___.
 
Chief Complaint:
Agitation, UTI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of atrial fibrillation not on 
anticoagulation, CHF, ovarian cancer s/p TAH/BSO and 
chemotherapy who was brought to the ED by family for agitation. 
Per report, the patient has not been acting herself and has 
become more agitated and aggressive. She has been refusing 
medications, has not bathed, and has been throwing knives. She 
was diagnosed with a urinary tract infection one day prior to 
admission and was prescribed ciprofloxacin. However, per report 
patient has not been taking medications.

Collateral information from her grandson includes that patient 
was independent until 1 month ago when she fell trying to get 
her husband breakfast. Afterwards, she was in rehab for one 
month. She was discharged home on ___. Patient has since had 
24 hour care with ___ providing 10 hours during the day and 
son/grandson alternating care in the evenings. 

The patient was subsequently admitted to ___ from ___ 
for hypoxia which was attributed to CHF and aspiration. 
Hospitalization was complicated by anemia and atrial 
fibrillation with RVR. Anemia was attributed to slow GI bleed 
and CKD. Patient deferred EGD/colonoscopy and was transfused 
RBCs. Patient was evaluated by speech and swallow with overt 
aspiration. The patient and family deferred dysphagia workup and 
did not want a feeding tube. She was continued on an oral diet 
with, understanding the risks of aspiration. Goals of care were 
discussed with the patient and family and it was confirmed 
DNR/DNI. Patient was discharged with home hospice services and 
home health aid for nearly 24 hour assistance. 

Grandson notes that patient has had significant behavioral 
symptoms especially over the last 7 days. Her PCP prescribed 
ciprofloxacin prophylactically for UTI but patient refused to 
take it. PCP actually came and visited her in the home and 
convinced her to take one tablet. Otherwise, patient has refused 
all medications over the last week.  Of note, grandson asked PCP 
to fill out forms that would allow him to make decisions for her 
- PCP stated he did not feel comfortable doing this and wanted 
formal evaluation by psychiatry. 

Yesterday evening, patient was noted to be despondent and 
screaming at everyone. Grandson subsequently called ___. Patient 
was reportedly hitting people with canes and trying to throw 
things in the kitchen, ?
?throwing knives. 

In the ED, initial VS were T 98.9, HR 94, BP 186/58, RR 20, 100% 
RA. Patient was agitated and placed in soft restraints. She 
received olanzapine 5 mg IM x1 and was calm following 
intervention.
- Labs: WBC 13.1, H/H 8.6/27.1, Cr 1.6 (baseline). UA negative 
leukocytes/nitrites. 
- CXR was deferred due to agitation.   
Vitals on transfer: 101 116/75 18 99% RA 

Upon arrival to the floor, patient was extremely upset with her 
family for bringing her to the hospital. She denied any pain or 
discomfort. She declined vital signs and declined to be 
examined. 

REVIEW OF SYSTEMS:  
Unable to obtain secondary to agitation 

 
Past Medical History:
- Atrial fibrillation not on anticoagulation
- HFpEF
- Aspiration
- Anemia
- CKD (baseline Cr 1.6)
- Hypertension
- Headaches
- Spinal stenosis
- GERD
- Ovarian cancer s/p TAH/BSO and chemotherapy
- Neurofibroma
- Lower GI bleed s/p syncopal event.
- IBD
- Internal hemorrhoids
- Esophagitis
- S/p bilateral TKAs
- S/p cholecystectomy
 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: Refused. 
GENERAL: Chronically ill appearing, alert and oriented x 3. 
Speaking in full sentences. Refusing to be examined.

DISCHARGE PHYSICAL EXAM
Vitals: T98.8 BP 105/79 HR 72 RR 18 Sats 98 RA
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
Psych: conversing appropriately, able to say WORLD backwards
 
Pertinent Results:
ADMISSION LABS
___ 08:30PM BLOOD WBC-13.1* RBC-2.86* Hgb-8.6* Hct-27.1* 
MCV-95 MCH-30.1 MCHC-31.7* RDW-14.9 RDWSD-51.2* Plt ___
___ 08:30PM BLOOD Neuts-74.7* Lymphs-14.3* Monos-8.9 
Eos-1.0 Baso-0.8 Im ___ AbsNeut-9.78* AbsLymp-1.87 
AbsMono-1.16* AbsEos-0.13 AbsBaso-0.11*
___ 08:30PM BLOOD Glucose-100 UreaN-26* Creat-1.6* Na-140 
K-4.6 Cl-104 HCO3-23 AnGap-18
___ 11:41AM BLOOD Calcium-8.7 Phos-3.4 Mg-1.9

URINE
___ 10:45PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:45PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:45PM URINE RBC-<1 WBC-2 Bacteri-FEW Yeast-NONE Epi-0

MICROBIOLOGY
___ URINE CULTURE PENDING
___ BLOOD CULTURE X 2 PENDING

PERTINENT IMAGING
___ CXR
Previous pleural effusions have nearly resolved.  Mild 
cardiomegaly is chronic
 
___ CT HEAD NONCONTRAST
1. No acute intracranial abnormality.
2. No acute intracranial hemorrhage.
3. Chronic changes as described above.
4.  Please note MRI of the brain is more sensitive for the 
detection of acute
infarct.

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with history of atrial 
fibrillation, aspiration, CHF, and CKD who was brought to the ED 
by family for agitation.

# Agitation: Patient had been refusing medications, has not 
bathed, and had been throwing things per family members. UA on 
admission not consistent with UTI. Patient also with 
leukocytosis, however this has persisted since her last 
hospitalization. Patient does have a history of aspiration but 
was without cough and found to have CXR with no evidence of 
focal consolidation. EKG was without ischemic changes. On 
further history, it seems that patient is more demoralized and 
upset by the lack of independence that she has at home. She is 
oriented x 3 and converses appropriately when examined. ___ 
evaluated her and recommended 24 home supervision. Patient was 
evaluated by psychiatry who agreed that patient was not 
depressed or delirious but rather simply frustrated by home 
situation. 

# Disposition: Patient had prolonged hospitalization as 24 hour 
home supervision could not be provided. She was evaluated by 
social work and palliative care as well as geriatrics. She was 
determined to have capacity and thus, her own medical 
decision-making. Despite her wishes to go home without 24 hour 
supervision, she was held in order for this care to be 
established to provide a safe discharge plan. Multiple family 
meetings were held with primary care taker, grandson ___, 
primary team members, social work, and others. Ultimately, with 
geriatrics and hospice liaison presence and aid, a plan for 24 
hour supervision was instituted and thus, patient was deemed 
safe for discharge home with services.

# Leukocytosis: Persistently elevated from last admission. This 
was attributed to continued aspiration. Decreased to 8.0 on 
___.

CHRONIC ISSUES:
# HYPERTENSION: Continued home amlodipine, metoprolol.
# CHF: Currently not symptomatic and on room air. Of note, the 
patient was discharged home on O2 at last admission. Continued 
home Lasix 20mg PO daily.
# AFIB: Not on anticoagulation. Continued on fractionated 
metoprolol while hospitalized and discharged on long-acting 
metoprolol. 
# Anemia: Likely secondary to slow GI bleed and CKD. Patient 
required transfusions during last hospitalization but declined 
further intervention or workup with egd/colonoscopy. H/H 
remained stable during this admission. 

# CODE STATUS: DNR/DNI
# CONTACT: Grandson ___: ___ (power of attorney), Son 
___: ___

# TRANSITIONAL ISSUES
- hospice ___ services to continue support at home
- consider Seroquel or another antipsychotic to help with 
behavior issues
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Acetaminophen 650 mg PO Q8H:PRN pain, fever 
3. Furosemide 20 mg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. LOPERamide 2 mg PO QID:PRN diarrhea 
6. Pantoprazole 40 mg PO Q24H 
7. Famotidine 20 mg PO DAILY 
8. Lorazepam 0.5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain, fever 
2. Amlodipine 5 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. LOPERamide 2 mg PO QID:PRN diarrhea 
5. Pantoprazole 40 mg PO Q24H 
6. Famotidine 20 mg PO DAILY 
7. Lorazepam 0.5 mg PO QHS:PRN insomnia 
8. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: Anxiety/stress

Secondary diagnosis: atrial fibrillation
chronic congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at ___. There was 
concern that you were not acting yourself at home. You were 
found NOT to have a pneumonia, urinary tract infection, or a 
bleed in your head. Your home situation appears to be causing 
you significant amount of stress. You were seen by social work, 
palliative care, and the psychiatry teams who recommended that 
you get further cognitive testing and follow-up with the 
___ clinic. 

You were also evaluated by the geriatric team in the hospital. 
They determined that you were competent to make your own medical 
decisions. We hope that you will accept the 24 hour supervision 
that physical therapy has recommended. Additionally, your 
grandson ___ has been doing the best he can to provide the 
recommendations of your doctors.

We wish you all the best.

Sincerely,

Your ___ team
 
Followup Instructions:
___